US09024027B2
A solution of methyl 2-(5-amino-6-methoxy-1,3-dioxoisoindolin-2-yl)acetate (0.202 g, 0.764 mmol) in pyridine (10 ml) was cooled to 0° C., and methanesulfonyl chloride (0.071 ml, 0.917 mmol) was added. The mixture was warmed to room temperature and stirred for 1 hour. Additional methanesulfonyl chloride (0.090 ml, 1.146 mmol) was added over 30 hour, cooling to 0° C. and stirring at room temperature. The solvent was removed under vacuum, and the crude was partitioned between ethyl acetate and 1N HCl. The organic phase was washed with brine and dried over sodium sulfate. The solvent was removed and the crude was purified by chromatography on silica gel cartridge (petroleum ether:ethyl acetate from 6:4 to 100% ethyl acetate) affording methyl 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.200 g, 0.584 mmol, 76% yield). MS/ESI+ 342.9 [MH]+.

reactant | methyl 2-(5-amino-6-methoxy-1,3-dioxoisoindolin-2-yl)acetate | 0.764 mmol, 0.202 g | NC=1C=C2C(N(C(C2=CC1OC)=O)CC(=O)OC)=O | C12H12N2O5
reactant | methanesulfonyl chloride | 0.917 mmol, 0.071 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 1.146 mmol, 0.090 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.584 mmol, 0.200 g, 76% yield | COC=1C=C2C(N(C(C2=CC1NS(=O)(=O)C)=O)CC(=O)OC)=O | C13H14N2O7S
